US07388061B2
To 3.1 g (0.03 mol) 2,4-pentanediol were added 30 ml tetrahydrofuran and 7.1 g (0.09 mol) pyridine, then added 10.5 g (0.075 mol) benzoyl chloride with stirring. The reaction was heated refluxing for 4 hours, cooled and added 20 ml saturated saline. The reaction mixture was extracted with ethyl acetate, and the extract was dried over anhydrous sodium sulfate, filtered. After removing solvent, the crude was purified by column chromatography to give 8.9 g 2,4-pentanediol dibenzoate as a colorless liquid, the yield was 95%.

reactant | 2,4-pentanediol | 0.03 mol, 3.1 g | CC(CC(C)O)O | C5H12O2
reactant | pyridine | 0.09 mol, 7.1 g | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.075 mol, 10.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2,4-pentanediol dibenzoate | 8.9 g, yield was 95% | C(C1=CC=CC=C1)(=O)OC(C)CC(C)OC(C1=CC=CC=C1)=O | C19H20O4
